US08629271B2
b) (9-(3-(2-Hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-(trifluoromethyl)thiazol-4-yl)methanone
2-(3-(Bromomethyl)phenyl)ethanol (example 6, step a) (0.354 g) was added to a solution of 1-oxa-4,9-diazaspiro[5.5]undecan-4-yl(2-(trifluoromethyl)thiazol-4-yl)methanone trifluoroacetate (example 25, step a) (0.74 g) and triethylamine (0.689 mL) in acetonitrile (15 mL) and the mixture stirred at 20° C. for 2 hours. The solvent was evaporated under reduced pressure and the residue partitioned between ethyl acetate and saturated sodium bicarbonate solution, the organic layer was dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The crude product was purified by flash silica chromatography using 1% triethylamine and 3% methanol in dichloromethane as solvent. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 0.640 g.

reactant | 2-(3-(Bromomethyl)phenyl)ethanol | BrCC=1C=C(C=CC1)CCO | C9H11BrO
reactant | 1-oxa-4,9-diazaspiro[5.5]undecan-4-yl(2-(trifluoromethyl)thiazol-4-yl)methanone trifluoroacetate | FC(C(=O)O)(F)F.O1CCN(CC12CCNCC2)C(=O)C=2N=C(SC2)C(F)(F)F
reactant | triethylamine | 0.689 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (9-(3-(2-Hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-(trifluoromethyl)thiazol-4-yl)methanone | OCCC=1C=C(CN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)C(F)(F)F)CC2)C=CC1 | C22H26F3N3O3S
